US07084176B2
Preparation of 4-hydroxy-3-methoxy-N-[3-[2-(2-trifluoromethylphenyl)-ethynyl]phenyl]phenylacetamide
A mixture of N-(3-ethynylphenyl)-4-hydroxy-3-methoxypheny-acetamide (the compound of Example 19) (200 mg), 1-trifluoromethyl-2-iodobenzene (280 mg), copper (I) iodide (19 mg), bis(triphenylphosphine)palladium (II) dichloride (70 mg), triethylamine (1 g) and acetonitrile (3 ml) is heated with stirring at 50° C. under argon atmosphere for 18 hours. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give the desired compound (120 mg).

reactant | N-(3-ethynylphenyl)-4-hydroxy-3-methoxypheny-acetamide | C(#C)C=1C=C(C=CC1)NC(CC1=CC(=C(C=C1)O)OC)=O | C17H15NO3
reactant | 1-trifluoromethyl-2-iodobenzene | 280 mg | FC(C1=C(C=CC=C1)I)(F)F | C7H4F3I
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 19 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 70 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-hydroxy-3-methoxy-N-[3-[2-(2-trifluoromethylphenyl)-ethynyl]phenyl]phenylacetamide | 120 mg | OC1=C(C=C(C=C1)CC(=O)NC1=CC(=CC=C1)C#CC1=C(C=CC=C1)C(F)(F)F)OC | C24H18F3NO3
